US06262046B1
1-Diphenylmethyl-3-(N-methyl benzenesulphonamido)azetidine
To a solution of 1-diphenylmethyl-3-methanesulphonyloxyazetidine (WO 96/05193) (1.4 g) in dioxane (25 mL) were added N-methyl benzenesulphonamide (1.2 g) and caesium carbonate (2.6 g). The reaction mixture was heated to reflux for 3 h, then cooled to room temperature. Water (20 mL) was added to the resulting slurry, and the mixture was extracted with ethyl acetate (3×25 mL). The combined organics were washed with brine, dried over magnesium sulphate, filtered and dried in vacuo to yield crude product. Chromatography on silica gel eluting with ethyl acetate:hexanes (2:3 by volume) yielded the title compound as a white foam (1.31 g).

reactant | 1-diphenylmethyl-3-methanesulphonyloxyazetidine | 1.4 g | C1(=CC=CC=C1)C(N1CC(C1)OS(=O)(=O)C)C1=CC=CC=C1 | C17H19NO3S
reactant | N-methyl benzenesulphonamide | 1.2 g | CNS(=O)(=O)C1=CC=CC=C1 | C7H9NO2S
reactant | caesium carbonate | 2.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | 20 mL | O | H2O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 1-Diphenylmethyl-3-(N-methyl benzenesulphonamido)azetidine | 1.31 g | C1(=CC=CC=C1)C(N1CC(C1)N(S(=O)(=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C23H24N2O2S
